US07897607B2
1-Benzyl-3-(hydroxymethyl)-5-mesitylcinnolin-4(1H)-one
A mixture of 0.144 g (0.479 mmol) of 1-benzyl-5-chloro-3-(hydroxymethyl)cinnolin-4(1H)-one, 0.126 g (0.766 mmol) of mesityl boronic acid, 0.111 g (0.096 mmol) of tetrakis and 0.254 g (1.20 mmol) of potassium phosphate in 8 mL of DMF was heated to 100° C. for 16 h. The reaction mixture was quenched with water and extracted with ethyl acetate containing 5% hexanes. The combined organic layers were washed with brine, dried over sodium sulfate, filtered through a plug of silica gel and concentrated in vacuo onto silica gel. The crude material was purified by flash chromatography eluting with a 25% ethyl acetate/hexanes mixture to give 0.087 g (47%) of the title compound as a tan solid.

reactant | 1-benzyl-5-chloro-3-(hydroxymethyl)cinnolin-4(1H)-one | 0.479 mmol, 0.144 g | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)CO | C16H13ClN2O2
reactant | mesityl boronic acid | 0.766 mmol, 0.126 g | C1(=C(C(=CC(=C1)C)C)B(O)O)C | C9H13BO2
reactant | potassium phosphate | 1.20 mmol, 0.254 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis | 0.096 mmol, 0.111 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Benzyl-3-(hydroxymethyl)-5-mesitylcinnolin-4(1H)-one | 0.087 g, 47% | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)=O)CO | C25H24N2O2
